US05475000
Preparation of 3- (1-methyl-1H-tetrazol-5-yl) -6-methyl-4-oxo-4H-pyrido[1,2-a ]pyrimidine
A mixture of 2.3 g of 3- (1H-tetrazol-5-yl) -6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine, 50 ml of dimethylformamide, 1.38 g (0.001 mole) of anhydrous potassium carbonate and 2.85 g (0.02 moles) of methyl iodide was stirred at 80° C. for 1 hour. The reaction mixture was cooled to room temperature and diluted with 150 ml of water. The precipitating crystals were collected. 1.61 g (66.53%) of the title compound was obtained, which was crystallized from dimethylformamide, m.p.: 232°-234° C.

reactant | 3- (1H-tetrazol-5-yl) -6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine | 2.3 g | N1N=NN=C1C1=CN=C2N(C1=O)C(=CC=C2)C | C10H8N6O
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.001 mole, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.02 moles, 2.85 g | CI | CH3I
solvent | water | 150 ml | O | H2O
product | 3- (1-methyl-1H-tetrazol-5-yl) -6-methyl-4-oxo-4H-pyrido[1,2-a ]pyrimidine | 1.61 g, 66.53% | CN1N=NN=C1C1=CN=C2N(C1=O)C(=CC=C2)C | C11H10N6O
